US04101558
Preparation of o-Chlorosulfenylbenzoyl Chloride
A 50 ml of three-neck flask, equipped with an agitator, a thermometer, a gas introduction tube, a dropping funnel, a reflux condenser sealed on the open end with gas bubbler, was charged with 30.6 g (0.1 mole) of 2,2'-dithiodibenzoic acid, 250 ml of ethylene chloride and 6 to 8 drops of dimethylformamide. The stirred slurry was heated to reflux and 30 g (0.25 mole) of thionyl chloride was then gradually charged in approximately 1.5 hours. An additional hour heating to reflux is usually required to complete the reaction. The reaction mixture was then cooled to 8°-10° C and 15.6 g (i.e. 0.22 mile) of chlorine gas was introduced into the agitated slurry through a rotameter. The chlorination took 30-45 minutes. The temperature of 8°-10° C was maintained for additional 20 minutes, then raised to 60° C, held for 30 minutes and finally cooled to approximately 10° C.

reactant | 2,2'-dithiodibenzoic acid | 0.1 mole, 30.6 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)O)C=CC=C1)(=O)O | C14H10O4S2
reactant | thionyl chloride | 0.25 mole, 30 g | S(=O)(Cl)Cl | Cl2OS
reactant | chlorine | 15.6 g | ClCl | Cl2
catalyst | dimethylformamide | 6 to 8 drops | CN(C=O)C | C3H7NO
solvent | ethylene chloride | 250 ml | C(CCl)Cl | C2H4Cl2
product | o-Chlorosulfenylbenzoyl Chloride | ClSC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2OS
